US07465731B2
A solution of ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(3-methylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (820 mg) and 1N NaOH solution (4.1 ml) in MeOH (20 ml) was stirred at 80-85° C. for 2 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of AcOEt and brine. The aquous solution was adjusted to PH 5.4 with 5% HCl solution and extracted with THF and AcOEt. The solvent was evaporated in vacuo and The precipitate was washed with n-hexane to give (2E)-3-(5-chloro-6-{[(3R)-1-(3-methylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid (410 mg).

reactant | ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(3-methylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 820 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)CC1=CC(=CC=C1)C)/C=C/C(=O)OCC | C22H26ClN3O2
reactant | NaOH | 1N, 4.1 ml | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | (2E)-3-(5-chloro-6-{[(3R)-1-(3-methylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | 410 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)CC1=CC(=CC=C1)C)/C=C/C(=O)O | C20H22ClN3O2
